US07332508B2
1-Cyclopentyl-4-{3-[5-(4-methoxyphenyl)[1,2,4]oxadiazol-3-yl]propyl}piperidine, hydrochloride
The title compound was prepared by a similar procedure to that described in Example 3, starting from 4-(1-cyclopentylpiperidin-4-yl)-N-hydroxybutyramidine and 4-methoxybenzoyl chloride.

reactant | 4-(1-cyclopentylpiperidin-4-yl)-N-hydroxybutyramidine | C1(CCCC1)N1CCC(CC1)CCCC(=N)NO | C14H27N3O
reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | 1-Cyclopentyl-4-{3-[5-(4-methoxyphenyl)[1,2,4]oxadiazol-3-yl]propyl}piperidine, hydrochloride | Cl.C1(CCCC1)N1CCC(CC1)CCCC1=NOC(=N1)C1=CC=C(C=C1)OC | InChI=1S/C22H31N3O2.ClH/c1-26-20-11-9-18(10-12-20)22-23-21(24-27-22)8-4-5-17-13-15-25(16-14-17)19-6-2-3-7-19;/h9-12,17,19H,2-8,13-16H2,1H3;1H
